US07825135B2
tert-Butyl 4-cyano-4-(6-fluoropyridin-2-yl)piperidin-1-carboxylate
2,6-Difluoropyridine (2 g, 17 mmol) and tert-butyl 4-cyanopiperidine-1-carboxylate (2.4 g, 11 mmol) were reacted in the presence of potassium hexamethyldisilazide (14 mmol) using the method described in example 8-1 to afford the desired product: tert-butyl 4-cyano-4-(6-fluoropyridin-2-yl)piperidine-1-carboxylate: 1H NMR δ (ppm)(CDCl3): 7.86 (1 H, q, J=7.9 Hz), 7.54 (1 H, dd, J=2.3, 7.4 Hz), 6.93-6.91(1 H, m), 4.28 (21H, br s), 3.17 (2 H, br s), 2.25-2.17 (2 H, m), 2.02 (2 H, d, J=14.6 Hz), 1.48 (9H, s).

reactant | 2,6-Difluoropyridine | 17 mmol, 2 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | tert-butyl 4-cyanopiperidine-1-carboxylate | 11 mmol, 2.4 g | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | potassium hexamethyldisilazide | 14 mmol | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
product | tert-Butyl 4-cyano-4-(6-fluoropyridin-2-yl)piperidin-1-carboxylate | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)F | C16H20FN3O2
